US07465815B2
3-(4-Isopropylphenyl)-2,2-dimethyl-2,3-dihydro-1-benzofuran-5-amine
Using N-benzyl-3-(4-isopropylphenyl)-2,2-dimethyl-2,3-dihydro-1-benzofuran-5-amine obtained in Reference Example 85, the title compound was synthesized in the same manner as in Reference Example 30. Yield 98%. Melting point: 109-110° C. (hexane).

reactant | N-benzyl-3-(4-isopropylphenyl)-2,2-dimethyl-2,3-dihydro-1-benzofuran-5-amine | C(C1=CC=CC=C1)NC=1C=CC2=C(C(C(O2)(C)C)C2=CC=C(C=C2)C(C)C)C1 | C26H29NO
solvent | hexane | CCCCCC | C6H14
product | 3-(4-Isopropylphenyl)-2,2-dimethyl-2,3-dihydro-1-benzofuran-5-amine | Yield 98% | C(C)(C)C1=CC=C(C=C1)C1C(OC2=C1C=C(C=C2)N)(C)C | C19H23NO
